US08252723B2
Methyl [5-(3-chlorophenyl)-3-methyl-1-pyridin-3-yl-1H-pyrazol-4-yl]acetate (see Table 2, Example 2-17)
0.577 g (4.233 mmol) of 3-hydrazinopyridine in 5.00 ml of ethanol was added to 0.650 g (2.419 mmol) of methyl 3-(3-chlorobenzoyl)-4-oxopentanoate, and the mixture was stirred in a closed vessel in a microwave oven at 130° C. for 1.5 h. The solvent was removed under reduced pressure, and the residue was taken up in dichloromethane and washed twice with in each case 25 ml of water. The combined organic phases were dried over sodium sulfate, and the solvent was removed under reduced pressure. Chromatography of the residue gave 0.364 g (42% of theory) of a light-yellow oil. 1H-NMR (CDCl3): see Table 2.

reactant | 3-hydrazinopyridine | 4.233 mmol, 0.577 g | N(N)C=1C=NC=CC1 | C5H7N3
reactant | methyl 3-(3-chlorobenzoyl)-4-oxopentanoate | 2.419 mmol, 0.650 g | ClC=1C=C(C(=O)C(CC(=O)OC)C(C)=O)C=CC1 | C13H13ClO4
solvent | ethanol | 5.00 ml | C(C)O | C2H6O
product | Methyl [5-(3-chlorophenyl)-3-methyl-1-pyridin-3-yl-1H-pyrazol-4-yl]acetate | ClC=1C=C(C=CC1)C1=C(C(=NN1C=1C=NC=CC1)C)CC(=O)OC | C18H16ClN3O2
